US08623855B2
Preparation of [4-[(4-fluorophenyl)iminomethyl]phenyl]benzoate (Compound II-1)
To a 500 ml flask were added 45.6 grams (0.374 mol) 4-hydroxylbenzaldehyde, 150 ml of acetone and 25.8 grams (0.187 mol) potassium carbonate. Then, 52.1 ml (0.449 mol) of benzoyl chloride (BzCl) was added therein dropwise slowly at a temperature of about 0° C. After the addition, the mixture was warmed up to room temperature and the reaction lasted 2 hours. The residue was extracted 3 times with ethyl acetate (150 ml×3). The organic phases were combined, dried over anhydrous sodium sulfate and concentrated till dry to obtain 76.08 grams (0.336 mol) 4-benzoyloxybenzaldehyde. Next, 35.7 ml (0.37 mol) of 4-fluoroaniline was added dropwise to a solution of the obtained 4-benzoyloxybenzaldehyde in 300 ml of ethyl acetate. The reaction lasted 1 hours. The reaction mixture was filtered. The obtained solid was recrystallized from anhydrous ethanol to obtain 60.3 grams (0.189 mol) white solid, namely compound II-1. 1H NMR (400 MHz, CDCl3): δ 7.09-7.14 (m, 2H, Cpr-H), 7.23-7.28 (m, 2H, Cpr-H), 7.37-7.39 (m, 2H, Cpr-H), 7.54-7.59 (m, 2H, Cpr-H), 7.67-7.71 (m, 1H, Cpr-H), 7.99-8.02 (m, 2H, Cpr-H), 8.24-8.26 (m, 2H, Cpr-H), 8.49 (s, 1H, —CH—).

reactant | 4-fluoroaniline | 0.37 mol, 35.7 ml | FC1=CC=C(N)C=C1 | C6H6FN
reactant | 4-benzoyloxybenzaldehyde | C(C1=CC=CC=C1)(=O)OC1=CC=C(C=O)C=C1 | C14H10O3
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | [4-[(4-fluorophenyl)iminomethyl]phenyl]benzoate | 0.189 mol, 60.3 grams | FC1=CC=C(C=C1)N=CC1=CC=C(C=C1)OC(C1=CC=CC=C1)=O | C20H14FNO2
